US07727998B2
4-(6-Fluoro-3-pyridinyl)-piperidine
A solution of 2-fluoro-5-bromopyridine (7.69 g) in diethyl ether (160 ml) was cooled to −78° C., and into which n-butyl lithium (1,56M-hexane solution, 30 ml) was added dropwise at a temperature not higher than −70° C. After 15 minutes' stirring, tert-butyl 4-oxo-1-piperidinecarboxylate (8.7 g) was added. Temperature of the reaction liquid was raised to −35° C. and water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The organic layer was condensed under reduced pressure and isopropyl ether was added to the resulting residue. Whereupon precipitated crystals were recovered by filtration to provide the title compound (4.15 g). The filtrate was purified on column chromatography (hexane/ethyl acetate=3/1-2/1) to provide tert-butyl 4-(6-fluoro-3-pyridinyl)-4-hydroxy-tetrahydro-1(2H)-pyridinecarboxylate (1.25 g).

reactant | 2-fluoro-5-bromopyridine | 7.69 g | FC1=NC=C(C=C1)Br | C5H3BrFN
reactant | n-butyl lithium | 1,56M, 30 ml | C(CCC)[Li]
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 8.7 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | water | O | H2O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | 4-(6-Fluoro-3-pyridinyl)-piperidine | 4.15 g | FC1=CC=C(C=N1)C1CCNCC1 | C10H13FN2
